US06964961B2
B. {3-[7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carbonyl]-3-aza-bicyclo[3.1.0]hex-6-yl}-carbamic acid tert-butyl ester
The title compound was prepared from {3-[7-chloro-thieno[3,2-b]pyridine-2-carbonyl]-3-aza-bicyclo[3.1.0]hex-6-yl}-carbamic acid tert-butyl ester and 2-methyl-1H-indol-5-ylamine by a procedure analogous to Example 1C. MS: 504 (MH+); HPLC Rf: 5.31 min.; HPLC purity 95%.

reactant | {3-[7-chloro-thieno[3,2-b]pyridine-2-carbonyl]-3-aza-bicyclo[3.1.0]hex-6-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1C2CN(CC12)C(=O)C1=CC2=NC=CC(=C2S1)Cl)=O | C18H20ClN3O3S
reactant | 2-methyl-1H-indol-5-ylamine | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
product | {3-[7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carbonyl]-3-aza-bicyclo[3.1.0]hex-6-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1C2CN(CC12)C(=O)C1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C)=O | C27H29N5O3S
